US04618708
N-hydroxy L-alanine-glycine (Derivative 18)
3 g of N-(R, 2-bromo propanoyl)-glycine obtained by condensation of 2-bromo propionic acid (prepared according to E. Fischer et al., Annalen, 357, 1 (1907) with the glycine are dissolved in 100 ml of anhydrous ethanol and stirred for 48 hours with anhydrous hydroxylamine according to Example 5.

reactant | glycine | NCC(=O)O | C2H5NO2
reactant | hydroxylamine | NO | H3NO
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | N-hydroxy L-alanine glycine | ON[C@@H](C)C(=O)O.NCC(=O)O | InChI=1S/C3H7NO3.C2H5NO2/c1-2(4-7)3(5)6;3-1-2(4)5/h2,4,7H,1H3,(H,5,6);1,3H2,(H,4,5)/t2-;/m0./s1
